Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
sensation of tongue swelling and L facial sensory changes
 
Major Surgical or Invasive Procedure:
none

 
Brief Hospital Course:
Assessment:  ___ yo F with vascular risk factors and h/o 
headaches admitted with complicated migraine vs TIA.  Episode 
was sensation of L tongue swelling and L facial sensory changes. 
 

Neurology - Complicated migraine vs TIA.  MRI/A negative.  
Hemoglobin A1C 5.7.  Chol 187, LDL 120, HDL 40, Trig 135.  TSH 
in ___ was 1.0. She was taking a statin, which was continued.  
She was started on aspirin 81mg po qday for stroke prevention.  
She can take ibuprofen prn for headaches, will f/u in neurology 
clinic.  

Cardiology - Monitored on telemetry, had PVCs but otherwise no 
arrythmias.  Echocardiogram showed EF >55%, positive for PFO vs 
small ASD.  PMD notified of this finding, as she did not have a 
stroke no intervention at this time.

FEN/GI - Electrolytes within normal limits.  

 
Medications on Admission:
-lisinopril 20mg
-lovastatin 40mg

 
Discharge Medications:
1. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Lovastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*1 mo supply* Refills:*2*
4. Ibuprofen 200 mg Tablet Sig: Two (2) Tablet PO every six (6) 
hours as needed for headache.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atypical migraine vs TIA

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital with transient episode of 
sensetion of tongue swelling and abnormal sensation of the L 
face.  This was likley an atypical migraine.  Also possibly a 
TIA or ministroke.  Your MRI did not show a stroke.  You were 
started on asirin 81mg daily for stroke prevention.  
.
Your echocardiogram showed a small connection between the two 
top chamber of your heart, a PFO.  We will notify your primary 
care physician of this finding, and you should discuss this with 
them.  This is a common finding, and no interventions are 
required at this time.  
 
Followup Instructions:
___